US04491585
4.02 g (0.02 mol) of (6-phenoxy-2-pyridinyl)-methanol and 6.07 g (0.02 mol) of (±)-trans-Z-3-(2-chloro-2-(4-chloro-phenyl)-vinyl)-2,2-dimethyl-1-cyclopropanecarboxylic acid-chloride were dissolved in 100 ml of anhydrous toluene, and 2 g of pyridine, dissolved in 10 ml of anhydrous toluene, were added dropwise to the solution at 20°-25° C., while stirring. The mixture was then stirred for a further 3 hours at 25° C. The reaction mixture was poured into 150 ml of water, and the organic phase was separated off and again washed with 100 ml of water. The toluene phase was then dried over sodium sulphate and the solvent was distilled off in a water jet vacuum. The last solvent residues were removed by incipient distillation for a short time at a bath temperature of 60° C./1 mm Hg. 8.6 g (92% of theory) of (6-phenoxy-2-pyridinyl)-methyl (±)-trans-Z-3-(2-chloro-2-(4-chlorophenyl)-vinyl)-2,2-dimethyl-1-cyclopropanecarboxylate were obtained as a yellow viscous oil. The structure was established by the 1H-NMR spectrum.

reactant | (6-phenoxy-2-pyridinyl)-methanol | 0.02 mol, 4.02 g | O(C1=CC=CC=C1)C1=CC=CC(=N1)CO | C12H11NO2
reactant | (±)-trans-Z-3-(2-chloro-2-(4-chloro-phenyl)-vinyl)-2,2-dimethyl-1-cyclopropanecarboxylic acid-chloride | 0.02 mol, 6.07 g | Cl\C(=C/[C@@H]1C([C@H]1C(=O)Cl)(C)C)\C1=CC=C(C=C1)Cl | C14H13Cl3O
reactant | pyridine | 2 g | N1=CC=CC=C1 | C5H5N
reactant | water | 150 ml | O | H2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | (6-phenoxy-2-pyridinyl)-methyl (±)-trans-Z-3-(2-chloro-2-(4-chlorophenyl)-vinyl)-2,2-dimethyl-1-cyclopropanecarboxylate | 8.6 g, 92% | Cl\C(=C/[C@@H]1C([C@H]1C(=O)OCC1=NC(=CC=C1)OC1=CC=CC=C1)(C)C)\C1=CC=C(C=C1)Cl | C26H23Cl2NO3
